US05162321
1-(7-Methoxy-1-naphthyl)-4-[2-(2-thienoylamino)-ethyl]piperazine hydrochloride
This compound was prepared according to the process described in Example 1, Stage E, from 1-(7-methoxy-1-naphthyl)-4-(2-aminoethyl)piperazine and 2-thiophenecarbonyl chloride.

reactant | 1-(7-methoxy-1-naphthyl)-4-(2-aminoethyl)piperazine | COC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)CCN | C17H23N3O
reactant | 2-thiophenecarbonyl chloride | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
product | 1-(7-Methoxy-1-naphthyl)-4-[2-(2-thienoylamino)-ethyl]piperazine hydrochloride | Cl.COC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)CCNC(=O)C=1SC=CC1 | InChI=1S/C22H25N3O2S.ClH/c1-27-18-8-7-17-4-2-5-20(19(17)16-18)25-13-11-24(12-14-25)10-9-23-22(26)21-6-3-15-28-21;/h2-8,15-16H,9-14H2,1H3,(H,23,26);1H
